US05817647
E-4-Hydroxy-1,3-butadienylphosphonic acid diethylester
A mixture of E-4-t-butyldiphenylsilyloxy-1,3-butadienyl phosphonic diethyl ester (11 g, 26.4 mmol) and tetrabutylammonium fluoride trihydrate (10 g, 31 mmol) in tetrahydrofuran (100 ml) is stirred 2 hours at 20° C. The reaction mixture is concentrated in vacuo, diluted with ethyl acetate and washed with brine. The title product is obtained by flash chromatography on silica gel (4.6 g, 80%).

reactant | E-4-t-butyldiphenylsilyloxy-1,3-butadienyl phosphonic diethyl ester | 26.4 mmol, 11 g | C(C)OP(OCC)(=O)\C=C\C=CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C24H33O4PSi
reactant | tetrabutylammonium fluoride trihydrate | 31 mmol, 10 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | E-4-Hydroxy-1,3-butadienylphosphonic acid diethylester | C(C)OP(OCC)(=O)\C=C\C=CO | C8H15O4P
